US04623728
1-(4-Oxo-4-[4-fluorophenyl]butyl)-3-(3-hydroxyphenyl)piperidine
A mixture of 1.4 g (4 mmole) of 1-(4-oxo-4-[4fluorophenyl]butyl)-3-(3-methoxyphenyl)piperidine, 10 ml of 48% aqueous hydrobromic acid and 5 ml of glacial acetic acid was heated under reflux for ca. 20 hours. The reaction mixture was then poured onto a mixture of ice and water. The resulting mixture was basified with potassium carbonate and then it was extracted with ethyl acetate. The extracts were washed with water, followed by saturated sodium chloride solution, and then they were dried (MgSO4) and evaporated in vacuo. The residue was purified by chromatography on 150 ml of silica gel, eluting with chloroform/methanol (95:5). The product was then recrystallized from chloroform to give 540 mg (30% yield) of the title compound as a chloroform solvate, m.p. 77°-78° C.

reactant | 1-(4-oxo-4-[4fluorophenyl]butyl)-3-(3-methoxyphenyl)piperidine | 4 mmole, 1.4 g | O=C(CCCN1CC(CCC1)C1=CC(=CC=C1)OC)C1=CC=C(C=C1)F | C22H26FNO2
reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-(4-Oxo-4-[4-fluorophenyl]butyl)-3-(3-hydroxyphenyl)piperidine | 540 mg, 30% yield | O=C(CCCN1CC(CCC1)C1=CC(=CC=C1)O)C1=CC=C(C=C1)F | C21H24FNO2
